US08207177B2
Step b: N-[((1S,2S,4R)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-2-hydroxycyclopentyl)methyl]-N-methylsulfamide (Compound I-75)
N-[((1S,2S,4R)-2-[tert-Butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methyl]-N-methylsulfamide (25.0 mg, 0.0000438 mol) was dissolved in tetrahydrofuran (2.0 mL), ethanol (2.0 mL) and 1.00 M of hydrochloric acid in water (2.0 mL). The mixture was stirred overnight at room temperature. The solution was evaporated to dryness, and the residue was dissolved in methanol and treated with a 7.00 M solution of ammonia in methanol (0.1 mL). Solvents were again evaporated, and the residue was purified by silica gel chromatography, eluting with 2 to 10% methanol in dichloromethane to yield the product, 9.8 mg (49%). 1H-NMR (400 MHz, MeOD) δ 8.16 (s, 1H), 7.19 (m, 5H), 6.62 (d, 1H, J=3.6 Hz), 5.84 (t, J=7.7 Hz, 1H), 5.43 (ddd, J=4.5 Hz, 8.6 Hz, 12.8 Hz, 1H), 4.43 (t, J=3.7 Hz, 1H), 3.25 (dd, J=8.1 Hz, 13.7 Hz, 1H), 3.14 (dd, J=7.2 Hz, 13.7 Hz, 1H), 3.05 (ddd, J=3.3 Hz, 8.8 Hz, 15.8 Hz, 1H), 2.91 (m, 1H), 2.74 (m, 1H, 2.63 (m, 1H), 2.34 (ddd, J=1.1 Hz, 7.8 Hz, 13.6 Hz, 1H), 2.20 (m, 2H, 1.99 (m, 2H). LC/MS: Rt=1.51 min, ES+ 457 (AA standard).

reactant | N-[((1S,2S,4R)-2-[tert-Butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methyl]-N-methylsulfamide | 0.0000438 mol, 25.0 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)CN(S(=O)(=O)N)C | C28H42N6O3SSi
reactant | ethanol | 2.0 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 1.00 M | Cl | ClH
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | water | 2.0 mL | O | H2O
product | N-[((1S,2S,4R)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-2-hydroxycyclopentyl)methyl]-N-methylsulfamide | [C@@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)N(C=C2)[C@H]2C[C@@H]([C@@H](C2)CN(S(=O)(=O)N)C)O | C22H28N6O3S
